US08859536B2
5-methoxy-2-phenyl-1H-indole (95A)
Pd(OAc)2 (0.031 g, 0.136 mmol) was added to a solution of 5-methoxy-1H-indole (0.2 g, 1.359 m mol) and phenylboronic acid (0.249 g, 2.038 mmol) in acetic acid (2 mL) followed by copper (II) acetate (0.025 g, 0.138 mmol), and the mixture was stirred at 25° C. for 2 h under oxygen atmosphere. Insoluble solids were filtered off, and filtrate was concentrated. Residue was partitioned between ethyl acetate and water. Organic layer was separated, washed with brine, dried over sodium sulphate, filtered and concentrated in vacuo. The crude product was purified by flash chromatography using 10% ethyl acetate in hexane to afford title compound (0.08 g, 24%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ 11.3 (s, 1H), 7.82 (d, J=7.2 Hz, 2H), 7.44 (t, J=7.2 Hz, 2H), 7.32-7.26 (m, 2H), 7.02 (d, J=2.4 Hz 1H), 6.81 (d, J=1.2 Hz, 1H), 6.74 (dd, J1=2.4 Hz, J2=8.8 Hz, 1H) 3.78 (s, 3H).

reactant | 5-methoxy-1H-indole | 0.2 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | phenylboronic acid | 2.038 mmol, 0.249 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
catalyst | Pd(OAc)2 | 0.136 mmol, 0.031 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | copper (II) acetate | 0.138 mmol, 0.025 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-methoxy-2-phenyl-1H-indole | 0.08 g, 24% | COC=1C=C2C=C(NC2=CC1)C1=CC=CC=C1 | C15H13NO
